US06960564B2
Preparation of 4-Bromo-4-pentyloxybiphenyl 1(a)
4-Bromo-4′-hydroxybiphenyl (12.5 g 50.2 mmol) was added to a solution of NaOH (2.28 g, 97% pure, 55.2 mmol) in deionized H2O (150 ml). followed by the addition of 1-iodopentane (11.9 g, 60.2 mmol) and tetrabutylammonium bromide (0.82 g. 2.51 mmol). The mixture was stirred at 90° C. for 3.75 h until the solids went into solution. Then, as the reaction proceeded, the desired product began to precipitate. The mixture was slowly cooled and then filtered to provide a solid which was washed with deionized water until the pH of the filtrate was neutral and then dried for 16 h in a vacuum oven at 30° C.

reactant | 4-Bromo-4′-hydroxybiphenyl | 50.2 mmol, 12.5 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | NaOH | 55.2 mmol, 2.28 g | [OH-].[Na+]
reactant | 1-iodopentane | 60.2 mmol, 11.9 g | ICCCCC | C5H11I
solvent | H2O | 150 ml | O | H2O
catalyst | tetrabutylammonium bromide | 2.51 mmol, 0.82 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-Bromo-4-pentyloxybiphenyl | BrC1(CC=C(C=C1)C1=CC=CC=C1)OCCCCC | C17H21BrO
